US09421205B2
(e) tert-Butyl 4-(4-((4-(3-carbamoylphenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I35)
Lithium 3-(2-(2-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoate (I34) (0.100 g, 0.173 mmol) was dissolved in dry THF (7 mL) and dry DMF (1 mL) under an atmosphere of nitrogen. To the solution were added 1-hydroxybenzotriazole (0.028 g, 0.21 mmol) and EDCl (0.040 g, 0.21 mmol) and N,N-diisopropylethylamine (0.121 mL, 0.693 mmol) and the reaction mixture was stirred at room temperature for 10 minutes. Ammonium carbonate (0.067 g, 0.69 mmol) was added in one portion, and the reaction was stirred room temperature for 60 hours. The volatiles were removed in vacuo and the residual solution was diluted with EtOAc (70 mL) and sat. aq. NaHCO3 (70 mL). The layers were separated and the aqueous layer was extracted with EtOAc (70 mL), the combined organic layers were washed with water (70 mL), brine (70 mL), dried (MgSO4), filtered and concentrated in vacuo to give an off-white solid. The crude product was purified by silica gel chromatography (Biotage Isolera, 12 g Si Cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I35) (0.073 g, 74% yield) as an off-white solid; 1H NMR (400 MHz, d6-DMSO) δ 10.00 (s, 1H), 8.61 (s, 1H), 7.95 (s, 1H), 7.79 (s, 1H), 7.75-7.68 (m, 1H), 7.54 (d, J=8.6 Hz, 2H), 7.40-7.29 (m, 3H), 6.93 (d, J=9.1 Hz, 2H), 3.50-3.41 (m, 4H), 3.14-3.00 (m, 8H), 1.42 (s, 9H).

reactant | Lithium 3-(2-(2-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoate | 0.173 mmol, 0.100 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC=1C=C(C(=O)[O-])C=CC1)C(F)(F)F.[Li+]
reactant | 1-hydroxybenzotriazole | 0.21 mmol, 0.028 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.21 mmol, 0.040 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 0.693 mmol, 0.121 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ammonium carbonate | 0.69 mmol, 0.067 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-(3-carbamoylphenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.073 g, 74% yield | C(N)(=O)C=1C=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C29H33F3N6O3
